US07294635B2
To a solution of 2-fluoro-5-nitrobenzyl alcohol (1 g, 5.84 mmol) in 5 mL dichloromethane and triethylamine (0.81 ml, 5.84 mmol), was added acetyl chloride (0.415 ml, 1 eq) dropwise. The solution was stirred at room temperature for 12 hours, diluted with ethyl acetate and extracted with brine. Combine organic layers was dried over sodium sulfate, concentrated in vacuo to give acetic acid 2-fluoro-5-nitro-benzyl ester.

reactant | 2-fluoro-5-nitrobenzyl alcohol | 5.84 mmol, 1 g | FC1=C(CO)C=C(C=C1)[N+](=O)[O-] | C7H6FNO3
reactant | triethylamine | 5.84 mmol, 0.81 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.415 ml, 1 eq | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | acetic acid 2-fluoro-5-nitro-benzyl ester | FC1=C(COC(C)=O)C=C(C=C1)[N+](=O)[O-] | C9H8FNO4
